US07342065B2
Preparation of Anionic Latex of Styrene/Butadiene Elastomer (E-SBR)
The activator solution was a mixture of ferrous sulfate heptahydrate (in an amount of about 0.009 phm) where phm is parts by weight per 100 parts by weight of monomer sodium formaldehyde sulfoxylate dihydrate (in an amount of about 0.07 phm), tetrasodium ethylenediaminetetraacetate (in an amount of about 0.035 phm) and water (in an amount of about 9.97 phm). The soap solution was a mixture of mixed C14-C18 and C16-C18 unsaturated fatty acids (in an amount of about 2.34 phm), a potassium salt of disproportionated rosin acid (in an amount of about 1.4 phm), potassium chloride (in an amount of about 0.23 phm), tripotassium phosphate (in an amount of about 0.05 phm), diluted sodium hydroxide (in an amount of about 0.16 phm) and 50 weight percent potassium hydroxide (in an amount of about 0.18 phm). The initiator was pinane hydroperoxide (in an amount of about 0.05 phm).

reactant | sodium formaldehyde sulfoxylate dihydrate | O.O.S([O-])[O-].C=O.[Na+].[Na+]
reactant | tetrasodium ethylenediaminetetraacetate | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | potassium | [K] | K
reactant | rosin acid | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
reactant | potassium chloride | [Cl-].[K+]
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | pinane hydroperoxide | [O-]O.C12C(CCC(C1(C)C)C2)C
solvent | water | O | H2O
product | Styrene/Butadiene | C=CC1=CC=CC=C1.C=CC=C | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
